US05686424
Using the procedure described previously, a heterogeneous solution of 1-(2-adamantan-1-yl-2-oxoethyl) L-proline (152 mg, 0.52 mmol, 1.0 eq), L-asparagine N-benzylamide (231 mg, 1.04 mmol, 2.0 eq) and dichloromethane (1.5 mL), was treated with triethylamine (436 uL, 3.1 mmol, 6.0 eq), and a 50% solution of 1-n-propylphosphonic acid cyclic anhydride in dichloromethane (663 uL, 1.04 mL, 2.0 eq), to provide 130.7 mg (51%) of L-asparagine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-prolyl] benzylamide as a white foam.

reactant | 1-(2-adamantan-1-yl-2-oxoethyl) L-proline | 0.52 mmol, 152 mg, 1.0 eq | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)O)CCC2)=O | C17H25NO3
reactant | L-asparagine N-benzylamide | 1.04 mmol, 231 mg, 2.0 eq | C(C1=CC=CC=C1)NC([C@@H](N)CC(N)=O)=O | C11H15N3O2
reactant | triethylamine | 3.1 mmol, 436 uL, 6.0 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 663 uL, 2.0 eq | ClCCl | CH2Cl2
product | L-asparagine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-prolyl] benzylamide | 130.7 mg, 51% | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)N(C([C@@H](N)CC(N)=O)=O)CC3=CC=CC=C3)CCC2)=O | C28H38N4O4
